US04292317
1.65 g (0.005 mol) of 1-benzyl-7-chloro-6-fluoro-4-oxo-1,4-dihydro-quinoline-3-carboxylic acid, 2.5 cm3 of 1-methylpiperazine and 12 cm3 of pyridine were heated under reflux for 9 hours. The reaction product was isolated as indicated in Example 35 and purified by recrystallisation from methylcellosolve (20 cm3). 1 g of 1-benzyl-6-fluoro-7-(4-methylpiperazinyl)-4-oxo-1,4-dihydro-quinoline-3-carboxylic acid, m.p. 266° C., was obtained.

reactant | 1-benzyl-7-chloro-6-fluoro-4-oxo-1,4-dihydro-quinoline-3-carboxylic acid | 0.005 mol, 1.65 g | C(C1=CC=CC=C1)N1C=C(C(C2=CC(=C(C=C12)Cl)F)=O)C(=O)O | C17H11ClFNO3
reactant | 1-methylpiperazine | 2.5 cm3 | CN1CCNCC1 | C5H12N2
solvent | pyridine | 12 cm3 | N1=CC=CC=C1 | C5H5N
product | 1-benzyl-6-fluoro-7-(4-methylpiperazinyl)-4-oxo-1,4-dihydro-quinoline-3-carboxylic acid | 1 g | C(C1=CC=CC=C1)N1C=C(C(C2=CC(=C(C=C12)N1CCN(CC1)C)F)=O)C(=O)O | C22H22FN3O3
